US07238808B2
5-[7-Difluoromethyl-5-(3-ethoxy-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-thiophene-2-sulfonic acid amide
The title compound was prepared from 7-difluoromethyl-5-(3-ethoxy-phenyl)-3-ethynyl-pyrazolo[1,5-a]pyrimidine (example C.19) (313 g, 1.0 mmol) and commercially available 5-bromothiophene-2-sulfonamide (315 mg, 1.3 mmol) according to general procedure II. Obtained as a yellow solid (160 mg, 34%). MS (ISP) 489.2 [(M+NH4)+]; mp 214° C.

reactant | 7-difluoromethyl-5-(3-ethoxy-phenyl)-3-ethynyl-pyrazolo[1,5-a]pyrimidine | 1.0 mmol, 313 g | FC(C1=CC(=NC=2N1N=CC2C#C)C2=CC(=CC=C2)OCC)F | C17H13F2N3O
reactant | 5-bromothiophene-2-sulfonamide | 1.3 mmol, 315 mg | BrC1=CC=C(S1)S(=O)(=O)N | C4H4BrNO2S2
product | 5-[7-Difluoromethyl-5-(3-ethoxy-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-thiophene-2-sulfonic acid amide | FC(C1=CC(=NC=2N1N=CC2C#CC2=CC=C(S2)S(=O)(=O)N)C2=CC(=CC=C2)OCC)F | C21H16F2N4O3S2
